US06034275
3.58 g of (E)-4-bromo-2-buten-1-ol are dissolved in 100 ml of acetone and treated with 9.84 g of K2CO3 and 3.4 ml of N-allyl-methyl-amine. The suspension is stirred at RT for 40 h., filtered and the crude product obtained after concentration is purified on silica gel with methylene chloride:methanol (gradient 9:1-3:1). 1.52 g of (E)-4-(allyl-methyl-amino)-but-2-en-1-ol are obtained as a colourless liquid, MS: m/e 141 (M).

reactant | (E)-4-bromo-2-buten-1-ol | 3.58 g | BrC/C=C/CO | C4H7BrO
reactant | K2CO3 | 9.84 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-allyl-methyl-amine | 3.4 ml | C(C=C)NC | C4H9N
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | (E)-4-(allyl-methyl-amino)-but-2-en-1-ol | 1.52 g | C(C=C)N(C/C=C/CO)C | C8H15NO
